US06255307B1
10. 2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine
A suspension of 2-amino-6-acetamido-3-(2,3,5-trichlorophenyl)pyrazine (2.97 g, 8.96×10−3 mole) in 12M hydrochloric acid (1.31 ml) and water (4.04 ml) was fluxed for 1.75 hrs. The cooled mixture was then basified with 0.880 aqueous ammonia (5 ml) and extracted with chloroform (3×50 ml). The combined chloroform extracts were dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated down in vacuo at 80° C. Yield 2.29 g (88%), M.p. 178-180° C.

reactant | 2-amino-6-acetamido-3-(2,3,5-trichlorophenyl)pyrazine | 8.96×10−3 mole, 2.97 g | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)NC(C)=O | C12H9Cl3N4O
reactant | ammonia | 5 ml | N | H3N
solvent | hydrochloric acid | 12M, 1.31 ml | Cl | ClH
solvent | water | 4.04 ml | O | H2O
product | 2,6-Diamino-3-(2,3,5-trichlorophenyl)pyrazine | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)N | C10H7Cl3N4
